US04283384
Preparation of partially hydrolyzed N-vinylpyrrolidone/vinyl acetate prepolymer
Into a 2 liter round bottom flask 800 ml of ethanol, 12.8 g of sodium hydroxide pellets and 80 g of a copolymer composed of 70% N-vinylpyrrolidone and 30% vinyl acetate are introduced. The resulting reaction mixture is maintained with stirring at 30° C. for 2 hours and is then poured into 8 liters of diethyl ether to precipitate the desired polymer. After filtration the polymer is dried under reduced pressure. Yield: 95%.

reactant | ethanol | 800 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 12.8 g | [OH-].[Na+]
reactant | N-vinylpyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
solvent | diethyl ether | 8 liters | C(C)OCC | C4H10O
product | N-vinylpyrrolidone/vinyl acetate | Yield: 95% | C(=C)N1C(CCC1)=O.C(C)(=O)OC=C | InChI=1S/C6H9NO.C4H6O2/c1-2-7-5-3-4-6(7)8;1-3-6-4(2)5/h2H,1,3-5H2;3H,1H2,2H3
